US07981903B2
A solution of N,N-dimethyl-2-[5-(methyloxy)-6-nitro-2,3-dihydro-1H-indol-1-yl]acetamide (0.16 g, 1.72 mmol) in absolute ethanol (50 mL) and ethyl acetate (5 mL) was hydrogenated overnight at 45 psi with catalytic 10% Pd/C. The catalyst was removed by vacuum filtration through a celite pad which was rinsed with methanol. The filtrate was concentrated under reduced pressure and dried under high vacuum to provide 2-[6-amino-5-(methyloxy)-2,3-dihydro-1H-indol-1-yl]-N,N-dimethylacetamide. This was then carried forward without any further purification.

reactant | N,N-dimethyl-2-[5-(methyloxy)-6-nitro-2,3-dihydro-1H-indol-1-yl]acetamide | 1.72 mmol, 0.16 g | CN(C(CN1CCC2=CC(=C(C=C12)[N+](=O)[O-])OC)=O)C | C13H17N3O4
solvent | ethanol | 50 mL | C(C)O | C2H6O
solvent | ethyl acetate | 5 mL | C(C)(=O)OCC | C4H8O2
catalyst | Pd/C | [Pd] | Pd
product | 2-[6-amino-5-(methyloxy)-2,3-dihydro-1H-indol-1-yl]-N,N-dimethylacetamide | NC1=C(C=C2CCN(C2=C1)CC(=O)N(C)C)OC | C13H19N3O2
